US05134155
3-Acetoxymethyl-2-(4-fluorophenyl)-4,5,6,7-tetrahydro-2H-indazole (CP 167, RS step h)
Et3N (0.717 mL, 0.520 g, 5.14 mmol) was added to a stirring suspension of 1.00 g (5.04 mmol) of 2-acetoxyacetylcyclohexanone (Dolmazon, R.; Gelin, S. J. Heterocyclic Chem., 1982, 19, 117-121) and 0.820 g (5.04 mmol) of 4-fluorophenylhydrazine.HCl in 20 mL of absolute EtOH. The resulting solution was stirred under N2 for 4 h at room temperature and refluxed for 6 h. The mixture was concentrated and the residue was partitioned between 100 mL of Et2O and 50 mL of dilute aqueous HCl. The Et2O layer was washed with water, saturated aqueous NaHCO3, and brine. After drying over Na2SO4, the solution was concentrated to give 1.43 g of light brown solid. Recrystallization from EtOAc:hexanes afforded 0.753 g (52%) of the title compound as a white solid, m.p. 128.5°-129.5° C.; 1H NMR (CDCl3, 400 MHz) 1.85 (m, 4), 2.07 (s, 3), 2.60 (t, 2, J=6 Hz), 2.73 (t, 2, J=6 Hz), 5.00 (s, 2), 7.15 (t, 2, J=9 Hz), 7.45 (dd, 2, J=5, 9 Hz); IR (KBr) 1740, 1220 cm-1 ; MS (DCI) m/z 289 (base), 228 . Anal. Calcd. for C16H17FN2O2 : C, 66.65; H, 5.94; N, 9.72. Found: C, 66.74; H, 5.89; N, 9.61.

reactant | Et3N | 5.14 mmol, 0.717 mL, 0.520 g | CCN(CC)CC | C6H15N
reactant | 2-acetoxyacetylcyclohexanone | 5.04 mmol, 1.00 g | C(C)(=O)OCC(=O)C1C(CCCC1)=O | C10H14O4
reactant | 4-fluorophenylhydrazine | 5.04 mmol, 0.820 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | HCl | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-Acetoxymethyl-2-(4-fluorophenyl)-4,5,6,7-tetrahydro-2H-indazole | 0.753 g, 52% | C(C)(=O)OCC=1N(N=C2CCCCC12)C1=CC=C(C=C1)F | C16H17FN2O2
